2131-12-29 09:50:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - START [**2131-12-29**] 05:30 AM
   Placed in [**Hospital1 5**] ED
 EKG - At [**2131-12-29**] 06:00 AM
   Femoral A-line placed
   Arctic sun cooling started
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 10 mcg/Kg/min
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-29**] 09:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 93 (89 - 100) bpm
   BP: 89/37(50) {89/21(39) - 149/84(96)} mmHg
   RR: 22 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64.6 kg (admission): 64.6 kg
             Total In:
             114 mL
   PO:
             TF:
   IVF:
   114 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    169 mL
   Urine:
   169 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    -55 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%, Hemodynamic Instability
   PIP: 27 cmH2O
   Plateau: 21 cmH2O
   SpO2: 100%
   ABG: ////
   Ve: 7.6 L/min
   Physical Examination
   Intubated, sedated
   Not following commands
   Pupils equal, round, reactive to light
   Intact corneal reflex
   Intact gag reflex
   Moving right upper and lower extremities more than left
   UE reflexes 1+ b/l, knee jerk reflex: L (2+), R (1+)
   Toes downgoing
   Labs / Radiology
   5.4 mEq/L
        [image002.jpg]
   Assessment and Plan
   Mrs. [**Known firstname 1012**] [**Known lastname **] [**Last Name (un) **] is a very nice 76 year-old woman with
   history of CAD s/p CABG x 4, recent NSTEMI in [**11-4**], HTN, sCHF (EF
   25-30%) who had VT arrest.
   .
   #. VF Arrest : s/p arctic sun cooling which was started at 8:00am on
   [**2131-12-29**], approx. 12h after arrest.  In terms of etiologies of VF, the
   most likely cause is ischemic.
   - continue arctic sun for 24h
   - monitor on tele
   - contine intubation
   - A-line placement today
   - TTE today
   - if recovers, need ICD
   .
   #. Rhythm: currently in sinus.  Has h/o afib and tachy-brady syndrome,
   s/p pacemaker placement in [**2131-10-28**]
   - no anticoagulation for now given
   - hold BB given hypotension
   - monitor on tele
   .
   #. Pump - Patient with heart failure and EF of 25-30% after NSTEMI in
   [**Month (only) **] and no echo afterwards.
   - TTE today
   .
   #. Hypotension: likely multifactorial, including intubation, propofol,
   intravascular depletion, possible ACS, heart failure.
   - continue dopamine for now
   - NS bolus 500cc for now
   - d/c propofol, start versed and fentanyl
   - TTE
   .
   #. Coronaries: pt is s/p 4 vessel CABG [**35**] years ago. pt has h/o NSTEMI
   in [**2131-10-28**].
   - continue asa, plavix, statin
   - hold BB
   .
   #. Leukocytosis: UA dirty, urine cx pending.  CXR unremarkable.
   - start levo today for UTI
   - continue to follow cx
   - daily CBC
   - daily CXR
   .
   #. Anemia: hct stable, baseline around 30.  Pt has a h/o GI bleeding.
   - trend CBC daily
   - Transfuse goal HCT >30 given CAD
   .
   #. Acute on chronic kidney disease: UA pre-renal.
   - NS 500cc bolus now
   - trend cr
   .
   #. Asthma:
   - continue home regimen
   ICU Care
   Nutrition: NPO
   Glycemic Control:  insulin
   Lines:
   Multi Lumen - [**2131-12-29**] 05:30 AM
   Prophylaxis:
   DVT: sc heparin
   Stress ulcer: IV famotidine
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: CCU

2131-12-30 06:51:00 Physician Resident Progress Note
Chief Complaint: s/p VF arrest
   24 Hour Events:
   - Artic Sun protocol commenced
   - TTE performed demonstrating EF 15-20%, with LV inferior akinesis and
   basal to mid hypokinesis elsewhere (akinesis noted on ECHO from [**11-4**])
   - EEG per protocol
   - Urine cx pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2131-12-29**] 11:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Dopamine - 4.7 mcg/Kg/min
   Fentanyl - 200 mcg/hour
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-12-29**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2131-12-29**] 04:30 PM
   Midazolam (Versed) - [**2131-12-30**] 05:00 AM
   Fentanyl - [**2131-12-30**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-30**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   HR: 69 (60 - 97) bpm
   BP: 113/47(71) {109/39(63) - 142/60(94)} mmHg
   RR: 14 (8 - 23) insp/min
   SpO2: 100%
   Heart rhythm: 1st AV (First degree AV Block)
   Wgt (current): 64.6 kg (admission): 64.6 kg
   Height: 62 Inch
    CVP: 14 (11 - 15)mmHg
   Total In:
                                                                  2,617 mL
                                                                    352 mL
   PO:
   TF:
   IVF:
                                                                  2,437 mL
                                                                    352 mL
   Blood products:
   Total out:
                                                                    867 mL
                                                                    510 mL
   Urine:
                                                                    867 mL
                                                                    510 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,750 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.39/29/191/16/-5
   Ve: 3.2 L/min
   PaO2 / FiO2: 478
   Physical Examination
   Gen: elderly woman, intubated, lying on back without any spontaneous
   movement, eyes closed
   HEENT: NC/AT, LTM equipment in place on crown of head, intubated
   Cardio: Regular rate, rhythm, no murmurs
   Pulmonary: Clear to auscultation anteriorly
   Abdominal: soft, non-distended, no guarding to palpation, normoactive
   bowel sounds
   Peripheral Vascular: Feet are cool, (Right radial pulse: palpable),
   (Left radial pulse: palpable), (Right DP pulse: + Doppler), (Left DP
   pulse: + Doppler)
   Skin:  Not assessed
   Neurologic: Does not respond to voice or light, No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   201
   8.6
   116 mg/dL
   2.5 mg/dL
   16 mEq/L
   4.8 mEq/L
   56 mg/dL
   115 mEq/L
   142 mEq/L
   26.6
   17.3
        [image002.jpg]
                             [**2131-12-29**]  09:51 AM
                             [**2131-12-29**]  10:00 AM
                             [**2131-12-29**]  12:04 PM
                             [**2131-12-29**]  12:20 PM
                             [**2131-12-29**]  04:31 PM
                             [**2131-12-29**]  07:58 PM
                             [**2131-12-30**]  12:23 AM
                             [**2131-12-30**]  04:08 AM
                             [**2131-12-30**]  06:23 AM
   Cr
   2.9
   2.7
   2.6
   2.5
   2.5
   TropT
   0.11
   0.08
   TCO2
   18
   18
   18
   Glucose
   [**Telephone/Fax (2) 10826**]9
   116
   Other labs: PT / PTT / INR:15.6/37.1/1.4, CK / CKMB /
   Troponin-T:91//0.08, Lactic Acid:1.6 mmol/L, Ca++:8.3 mg/dL, Mg++:1.8
   mg/dL, PO4:4.4 mg/dL
   Assessment and Plan
   Mrs. [**Known firstname 1012**] [**Known lastname **] [**Last Name (un) **] is a very nice 76 year-old woman with
   history of CAD s/p CABG x 4, recent NSTEMI in [**11-4**], HTN, sCHF (EF
   25-30% prior to this admission) who had VT arrest.
   .
   #. VF/VT Arrest - No strips, but AED fired twice, so most likely VF/VT
   arrest secondary to ischemia after NSTEMI in [**11-4**]. 18 hour Artic sun
   protocol commenced on [**2131-12-29**] AM, patient is currently re-warming. TTE
   performed on [**2131-12-29**] demonstrated an EF of 15-20%, with akinesis of the
   LV inferior wall and basal to mid hypokinesis elsewhere, though the
   inferior wall akinesis was seen on prior ECHO on [**11-4**], likely
   representing stunned myocardium.
   - Complete Artic sun protocol
   - Wean sedation as tolerates
   - CT head w/o contrast today per Neurology recs
   - EP will see today, likely ICD placement on this admission
   - Resume beta-blockers once BP allows & pressors weaned
   .
   #. Rhythm - See above. Currently on NSR with LBBB without meeting
   criteria for ACS.
   - Holding beta-blocker for now given hypotension
   - Re-start BB with improved pressures & off dopamine
   .
   #. Pump - Patient with heart failure and EF of 25-30% after NSTEMI in
   [**Month (only) 1780**], now with EF of 15-20%, likely stunned myocardium.
   .
   #. Coronaries - Pt with troponin T
s of 0.08 to 0.11 yesterday,
   secondary to arrrest. No ECG changes compatible for ischemia and
   negative MB.
   - Continue lipitor 80
   - Continue ASA
   - Continue Plavix
   .
   #. Hypotension - most likely in the setting of starting mechanical
   ventilation and with sedation, now improved with gentle IVF
s & on
   Dopamine.
   - Infectious work up as below
   - IVF
   - Wean pressors as tolerated with target MAP >60
   .
   #. Leukocytosis
 Stable at 17.3 today from 18.0 on [**2131-12-29**]. Pt w/
   grossly positive UA, CXR with mild fluid overload, diarrhea at rehab
   though none here.  Cardiac arrest itself could also cause leukocytosis.
   - F/U Ucx
   - F/U BC
   - Levofloxacin given CXR and UA for 5 days
   .
   #. Acute on Chronic kidney disease - Patient with baseline Cr 1.4-1.5,
   admitted with Cr of 3.3 in context of poor PO intake on lisinopril and
   spironolactone and dirty U/A. Urine lytes suggestive of pre-renal
   etiology. Received gentle IVF
s on [**2131-12-29**] with good UOP. U/A grossly
   positive, receiving Levofloxacin, day 2. Cr improved to 2.5 this AM.
   - Hold spironolactone & lisinopril
   - Continue Levaquin 500mg IV q24H, day [**2-1**]
   .
   #. Anemia -Normocytic normochromic anemia with high RDW. Ferritin of
   1249, TIBC 226, TRF 174, Iron 30 in [**Month (only) **]/09 suggesting iron deficiency.
   Reticulocyte of 7.6 at that time (4.05 corrected and 2 with double
   correction) suggesting a component of acute disease with good marrow
   production. Reticulocyte count on [**2131-12-29**] low at 1.2.
   - B12 & Folate pending
   - Can consider transfusion if mixed central venous O2 is low
   .
   #. Hypertension - Pt s/p arrest now requiring pressors.
   - Holding ACEI and spironolactone and lasix for now
   .
   #. Mitral regurgitation
 Stable per TTE performed on [**2131-12-29**] compared
   to prior.
   .
   #. Asthma - No wheezes or signs of exacerbation. Will continue home
   medications.
   ICU Care
   Nutrition: No PO
s or tube feeds while being cooled
   Glycemic Control:  Insulin sliding scale
   Lines: A-line, RIJ
   Multi Lumen - [**2131-12-29**] 05:30 AM
   Arterial Line - [**2131-12-29**] 09:50 AM
   Prophylaxis:
   DVT: SC Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: pending improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **], [**Doctor Last Name 9539**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2131-12-30**] 09:36 ------

2131-12-31 07:04:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**Date range (1) 10847**]
   - Artic Sun completed
   - required more dopamine as warming
   - CT head - "nearly non-diagnostic"(EEG leads --> artifact)
   - tachy to 120 with BP 88/36, EKG indicates flutter; switched from Dopa
   to Levophed and ordered 1u pRBC for falling hct
   - Renal Failure with acidosis: urine output to 10/hr as warming; Urine
   output to trickle by 0300 on [**2131-12-31**]. started on 1 L at 75cc with little
   response; bolused with 500 cc at 1445; at 1630, changed to HCO3 in D5W
   to also address low HCO3
         - d/c'd allopurinol for ARF
        - 15 g kayexalate for K 5.6, CXR for wbc 33/ARF/Acidosis
       - on PO vanc and IV flagyl for c-diff, d/c levaquin. D
   - C- diff positive, treating as complicated/severe c. diff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2131-12-30**] 10:00 AM
   Metronidazole
 [**2131-12-31**] 0400
   Vancomycin (PO)
 [**2131-12-31**] 0300
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-12-30**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2131-12-31**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-12-31**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 96 (64 - 116) bpm
   BP: 104/34(53) {88/29(48) - 134/45(68)} mmHg
   RR: 15 (5 - 21) insp/min
   SpO2: 100%
   Heart rhythm: LBBB (Left Bundle Branch Block)
   Wgt (current): 71 kg (admission): 64.6 kg
   Height: 62 Inch
    CVP: 15 (10 - 20)mmHg
   CO/CI (Fick): (6.2 L/min) / (3.7 L/min/m2)
   Mixed Venous O2% Sat: 71 - 71
   Total In:
                                                                  3,494 mL
                                                                    836 mL
   PO:
   TF:
   IVF:
                                                                  3,122 mL
                                                                    528 mL
   Blood products:
                                                                    192 mL
                                                                    158 mL
   Total out:
                                                                    849 mL
                                                                      5 mL
   Urine:
                                                                    849 mL
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,645 mL
                                                                    831 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 33
   PIP: 14 cmH2O
   Plateau: 0 cmH2O
   SpO2: 100%
   ABG: 7.23/30/172/11/-13
   Ve: 8.1 L/min
   PaO2 / FiO2: 430
   Physical Examination
   GEN: Sedated, intubated
   CARD: rrr, no m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: faint), (Left radial pulse:
   [**Last Name (un) 10850**]), (Right DP pulse: not palpable), (Left DP pulse: Not palpable)
   Lungs: Coarse breathsounds bilaterally
   Abd: soft, slightly distended, normal bowel sounds
   Ext: brawny edema UE, brawny with pitting edema LE; cool feet, warm at
   mid tibia.
   Skin:  Not assessed
   Neurologic: sedated
   Labs / Radiology
   256 K/uL
   9.4 g/dL
   159 mg/dL
   3.3 mg/dL
   11 mEq/L
   5.6 mEq/L
   53 mg/dL
   112 mEq/L
   140 mEq/L
   29.0 %
   34.3 K/uL
        [image002.jpg]
                             [**2131-12-30**]  12:23 AM
                             [**2131-12-30**]  04:08 AM
                             [**2131-12-30**]  06:15 AM
                             [**2131-12-30**]  06:23 AM
                             [**2131-12-30**]  10:01 AM
                             [**2131-12-30**]  03:01 PM
                             [**2131-12-30**]  06:51 PM
                             [**2131-12-30**]  07:00 PM
                             [**2131-12-31**]  02:54 AM
                             [**2131-12-31**]  03:06 AM
   WBC
   17.3
   22.3
   34.3
   Hct
   26.6
   24.0
   29.0
   Plt
   [**Telephone/Fax (3) 10848**]
   Cr
   2.5
   2.5
   2.4
   2.6
   2.6
   2.7
   3.3
   TCO2
   18
   15
   13
   Glucose
   149
   116
   106
   125
   97
   99
   159
   Other labs: PT / PTT / INR:16.0/55.3/1.4, CK / CKMB /
   Troponin-T:91//0.08, ALT / AST:33/33, Alk Phos / T Bili:145/0.4,
   Differential-Neuts:73.0 %, Band:22.0 %, Lymph:1.0 %, Mono:3.0 %,
   Eos:0.0 %, Lactic Acid:3.4 mmol/L, LDH:327 IU/L, Ca++:8.1 mg/dL,
   Mg++:1.6 mg/dL, PO4:7.3 mg/dL
   Assessment and Plan
   Mrs. [**Known firstname 1012**] [**Known lastname **] [**Last Name (un) **] is a very nice 76 year-old woman with
   history of CAD s/p CABG x 4, recent NSTEMI in [**11-4**], HTN, sCHF (EF
   25-30% prior to this admission) who had VT arrest.
   .
   # . New Acute Renal failure after recent Acute on Chronic kidney
   disease - Patient with baseline Cr 1.4-1.5, admitted with Cr of 3.3 in
   context of poor PO intake on lisinopril and spironolactone and dirty
   U/A. Urine lytes suggestive of pre-renal etiology; creatinine improved
   to 2.4 with hydration. Was placed on levaquin ([**2131-12-31**] would be day 3).
   On [**2131-12-30**], continued to worsen with zero urine-output by early [**2131-12-31**]
   despite boluses. Also had worsening metabolic acisosis. Discovered to
   have c.diff on [**2131-12-31**].
   The etiology is multifactorial and related to sepsis/cdiff,
   intravascular dryness, and pressors.
   PLAN FOR [**2130-12-31**]
   - Fluid Challenge with 2L given dry lungs
   - restart Dopa at 2 for renal vasodilation, assess utility over day
   - d/c levaquin, start PO vanc with IV flagyl for ARF as complication of
   C.diff
   - d/c'd Dopamine and started Norepi to avoid renal vasoconstriction
   - d/d
d allopurinol in ARF
   - urine lytes, ua, cx, eos ordered if increase in urine output
   - renal consult in AM
   - still holding spironolactone & lisinopril
   .
   # C. Diff infection: likely related to levaquin, although patient had
   diarrhea at rehab. Unknown if received abx. Can cause markedly elevated
   WBC's (WBC 34.3 and 22% Bands); Can cause renal failure.
   Theoretically, she had this infection prior to admission, was cooled,
   the c-diff pooled and was delivered in a large bolus upon rewarming
   - start PO vanc, can increase to 500 mg q6
   - start 500 mg q8 Flagyl
   - serial q8 abdominal exams
   - start Tigecycline if no response; consider also cholestyramine
   - placed on precautions
   .
   #. Leukocytosis with new bandemia
 Was Stable at 17.3 [**2131-12-30**] from 18.0
   on [**2131-12-29**]; Pt had grossly positive UA, CXR with mild fluid overload,
   and diarrhea at rehab and none until [**2130-12-30**] here. On [**2131-12-31**], the WBC
   was 34.3 and 22% Bands. current though is related to C Diff. Also worry
   about aspiration pneumonia (3 days s/p arrest) but CXR looks reassuring
   - F/U Ucx x 2
   - F/U BC from [**12-30**] and [**12-31**]
   - F/u CXR final read taken at 1/4 AM
   - continue PO Vanc, IV flagyl; can increase vanc dose, start
   tigecycline or cholestyramine if difficulty in managment.
   - wean pressor with goal map > 60
   .
   #. VF/VT Arrest - No strips, but AED fired twice, so most likely VF/VT
   arrest secondary to ischemia after NSTEMI in [**11-4**]. 18 hour Artic sun
   protocol commenced on [**2131-12-29**] AM, and completed at [**2131-12-30**] at 12 noon.
   TTE performed on [**2131-12-29**] demonstrated an EF of 15-20%, with akinesis of
   the LV inferior wall and basal to mid hypokinesis elsewhere, though the
   inferior wall akinesis was seen on prior ECHO on [**11-4**], likely
   representing stunned myocardium. Patient required pressor support with
   dopamine (up to 7) which increased with warming. The pressor was
   switched to Norepi (0.04) on [**2130-12-30**]. CT head, per protocol, was
   unrevealing on [**2130-12-30**] [**1-29**] EEG lead artifact. EP saw patient, will place
   ICD when stable.
   PLAN FOR [**2130-12-31**]
   - wean pressors as tolerates
   - Wean sedation as tolerates, RISBI and Breathing trials
   - discuss with neurology whether must repeat CT; would have to be after
   EEG
   - assess neurologic status
   - Resume beta-blockers once BP allows & pressors weaned
   .
   # Lactic Acidosis: At 3.4; related to low cardiac output and pressors.
   Feet are clearly hypoperfused (bilaterally)
   -          follow
   -          improve fluid status and reseasess plan
   .
   #. Hypotension - most likely in the setting of starting mechanical
   ventilation and with sedation, but could also be related to sepsis. On
   0.04 Norepi
   - wean sedation as tolerated
   .
   #. Rhythm - See above. Currently on NSR with LBBB without meeting
   criteria for ACS.
   - Holding beta-blocker for now given hypotension
   - Re-start BB with improved pressures & off pressors
   .
   #. Pump - Patient with heart failure and EF of 25-30% after NSTEMI in
   [**Month (only) 1780**], now with EF of 15-20%, likely stunned myocardium.
   .
   #. Coronaries - Pt with troponin T
s of 0.08 to 0.11 yesterday,
   secondary to arrrest. No ECG changes compatible for ischemia and
   negative MB.
   - Continue lipitor 80
   - Continue ASA
   - Continue Plavix
   .
   #. Anemia -Normocytic normochromic anemia with high RDW. Ferritin of
   1249, TIBC 226, TRF 174, Iron 30 in [**Month (only) **]/09 suggesting iron deficiency.
   Reticulocyte of 7.6 at that time (4.05 corrected and 2 with double
   correction) suggesting a component of acute disease with good marrow
   production. Reticulocyte count on [**2131-12-29**] low at 1.2; B12 and folate
   wnl. Transfused with one unit of pRBC on [**2131-12-30**] for hct 24 with
   response to 29
   - follow daily
   .
   #. Hypertension - Pt s/p arrest now requiring pressors.
   - Holding ACEI and spironolactone and lasix for now
   .
   #. Mitral regurgitation
 Stable per TTE performed on [**2131-12-29**] compared
   to prior.
   .
   #. Asthma - No wheezes or signs of exacerbation. Will continue home
   medications on extubation
   .
   # Gout
 patient has impressive tophaceous gout R>L on the feet.
   - holding allopurinol in ARF
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2131-12-29**] 05:30 AM
   Arterial Line - [**2131-12-29**] 09:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   Her neurologic status and potential for recovery is poor per neurology.
   Her urine output has declined. Will aggressively fluid replete.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2131-12-31**] 10:18 ------

2132-01-01 06:58:00 Physician Attending Progress Note
TITLE:
   24 Hour Events:
   - neuro thinks pt is doing poorly from neuro status stand point
   - anuric, given 2L NS followed by another 1L NS, low dose dopamine
   started while levophed was weaned off, with hope to increase renal
   perfusion, but HR went to 120s-130s, dopamine discontinued, neo
   started, HR better, BP in the 100s, but UOP still close to zero
   - renal recs: muddy brown casts present, consistent with ATN, likely HD
   tonight or tomorrow morning
   - DP pulses not dopplerable, femoral pulses weak but palpable
   - ABG acidotic, continued on bicarb gtt
   - KUB ordered for more abdominal distention, consistent with early
   toxic megacolon
   - PO vanc increased from 125mg to 500mg Q6h, PR vanc started
   - OGT put on low wall suction
   - repeat KUB showed some improvement
   - surgery consulted, no surgery for now, pending neuro status
   - at about 11:40pm, pt was noted to have anisocoria, right pupil
   (4mm)minimally reactive to light, left pupil 2mm, concerning for
   herniation
   - vent setting changed to promote hyperventilation, HOB elevated at 30
   degree, mannitol considered but decided against it given renal failure,
   hypotension, acidosis
   - repeat head CT with EEG leads on showed that right sided brain is
   completely edematous, significantly different from one day prior
   - neurosurg contact[**Name (NI) **] but they wanted to have neuro see her first
   - in the morning around 5am, pupils were checked again, equal, 2.5mm
   mimimal-to-no reactivity to light
   - family said that patient would not want to live if neurological
   function is poor, "not want to live as vegetable"
   - still full code, but husband will fly in tomorrow pm from [**State 1771**], a
   family meeting was proposed for 4pm tomorrow, it would be good to have
   neuro for the meeting
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2131-12-30**] 10:00 AM
   Metronidazole - [**2131-12-31**] 10:00 PM
   Vancomycin - [**2131-12-31**] 11:50 PM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2131-12-31**] 02:30 PM
   Heparin Sodium (Prophylaxis) - [**2132-1-1**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-1**] 06:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 85 (78 - 118) bpm
   BP: 100/39(54) {88/27(43) - 128/45(70)} mmHg
   RR: 20 (7 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71 kg (admission): 64.6 kg
   Height: 62 Inch
   CVP: 15 (13 - 219)mmHg
   CO/CI (Fick): (5.9 L/min) / (3.5 L/min/m2)
   Mixed Venous O2% Sat: 72 - 72
   Total In:
                                                                  8,063 mL
                                                                    589 mL
   PO:
   TF:
   IVF:
                                                                  7,635 mL
                                                                    589 mL
   Blood products:
                                                                    158 mL
   Total out:
                                                                    407 mL
                                                                     10 mL
   Urine:
                                                                     57 mL
                                                                     10 mL
   NG:
                                                                    100 mL
   Stool:
                                                                     50 mL
   Drains:
   Balance:
                                                                  7,656 mL
                                                                    679 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 25 cmH2O
   Plateau: 23 cmH2O
   Compliance: 27.8 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/27/167/13/-8
   Ve: 9.6 L/min
   PaO2 / FiO2: 418
   Physical Examination
   GEN: intubated, sedation off since yesterday morning, but pt
   unresponsive to sternal rub or voice
   CARD: rrr, no m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: faint), (Left radial pulse:
   [**Last Name (un) 10850**]), (Right DP pulse: not palpable), (Left DP pulse: Not palpable),
   (Right femoral pulse: weak but palpable), (Left femoral pulse: weak but
   palpable)
   Lungs: Coarse breath sounds bilaterally
   Abd: distended, hypoactive bowel sounds
   Ext: brawny edema UE, brawny with pitting edema LE; [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] but with
   toe ischemia/necrosis, bear hugger on
   Neurologic: pupils 2.5mm, equal, minimal-to-no reactivity to light.
   Not responsive to sternal rub or voice.
   Labs / Radiology
   8.4 g/dL
   184 K/uL
   111 mg/dL
   3.3 mg/dL
   13 mEq/L
   4.5 mEq/L
   55 mg/dL
   114 mEq/L
   142 mEq/L
   25.5 %
   29.3 K/uL
        [image002.jpg]
                             [**2131-12-30**]  03:01 PM
                             [**2131-12-30**]  06:51 PM
                             [**2131-12-30**]  07:00 PM
                             [**2131-12-31**]  02:54 AM
                             [**2131-12-31**]  03:06 AM
                             [**2131-12-31**]  04:58 PM
                             [**2131-12-31**]  05:15 PM
                             [**2131-12-31**]  09:22 PM
                             [**2132-1-1**]  02:50 AM
                             [**2132-1-1**]  02:59 AM
   WBC
   22.3
   34.3
   32.6
   29.3
   Hct
   24.0
   29.0
   26.4
   25.5
   Plt
   [**Telephone/Fax (3) 10873**]84
   Cr
   2.6
   2.7
   3.3
   3.6
   3.3
   TCO2
   15
   13
   16
   16
   16
   Glucose
   97
   99
   159
   118
   111
   Other labs: PT / PTT / INR:18.0/89.8/1.6, CK / CKMB /
   Troponin-T:91//0.08, ALT / AST:35/107, Alk Phos / T Bili:114/0.3,
   Differential-Neuts:64.0 %, Band:27.0 %, Lymph:2.0 %, Mono:7.0 %,
   Eos:0.0 %, Lactic Acid:3.2 mmol/L, LDH:489 IU/L, Ca++:7.3 mg/dL,
   Mg++:2.7 mg/dL, PO4:5.3 mg/dL
   CT head [**1-1**] (my read): right hemisphere significantly edematous, no
   midline shift. Significantly different from CT head from [**12-30**]
   KUB [**1-1**] (my read): transverse colon distension slightly improved
   compared to the prior KUB, stomach decompressed, tip of OGT in
   appropriate location
   Assessment and Plan
   Mrs. [**Known firstname 1012**] [**Known lastname **] [**Last Name (un) **] is a very nice 76 year-old woman with
   history of CAD s/p CABG x 4, recent NSTEMI in [**11-4**], HTN, sCHF (EF
   25-30% prior to this admission) who had VT arrest.
   .
   # Anoxic brain injury: Patient was found down in rehab, unclear how
   long pt was out before she was shocked.  Patient was on arctic sun
   cooling protocol for 18hrs, and has been off sedation since [**12-31**] early
   AM.  EEG shows global suppression, but given pt was on versed and in
   the presence of renal failure, may need to wait until sedation
   completely wears off before final neuro status and neurologic prognosis
   determined.  On the night of [**12-31**], patient was noted to have anisocoria
   (right pupil 4mm minimally reactive to light, left pupil 2mm reactive
   to light), concerning for herniation.  Repeat CT head with EEG leads on
   showed that right-sided brain is completely edematous with no obvious
   midline shift.  Pupils are equal at 2.5mm this morning, with
   minimal-to-no reactivity to light.
   - f/u on EEG result
   - f/u on neuro recs
   - f/u on final head CT read
   - get repeat CT head when EEG leads are off
   - hyperventilation to reduce ICP, goal pCO2 27-30
   - keep HOB at 30 degree
   - hold off on mannitol given acute renal failure, acidosis, and
   hypotension
   - continue aspirin, plavix, statin for CVA prevention
   - per patient's daughters, patient stated that she would not want to
   "live like vegetable"
   - if poor neurologic prognosis, need to reconsider code status
   (currently full)
   - family meeting this pm after husband flies from [**State 1771**] to see her, it
   would be useful to have neuro present during the meeting
   .
   # C. Diff colitis: Patient had diarrhea at rehab, and levofloxacin on
   admission did not help. It is very possible that when she was cooled,
   the c-diff pooled and was delivered in a large bolus upon rewarming.
   Patient was started on antibiotics for c.diff on [**12-31**], KUB in the
   evening of [**12-31**] shows evidence of early toxic megacolon. Pt meets the
   surgical indication for colectomy but needs to have neuro status
   assessment prior to any surgical planning.
   - continue PO vanc 500 mg q6, IV flagyl 500 mg q8 Flagyl, PR vanc 250mg
   QID
   - serial KUBs to eval toxic megacolon, look for free air and evidence
   of perforation
   - serial q4 abdominal exams
   - f/u surgery recs
   - follow WBC and fever curves
   .
   # Acute renal failure: Patient with baseline Cr 1.4-1.5, admitted with
   Cr of 3.3 in context of poor PO intake on lisinopril and
   spironolactone, dirty U/A and c.diff infection which likely started
   when she was in rehab. Urine lytes suggestive of pre-renal etiology;
   creatinine improved to 2.4 with hydration. However, creatinine worsened
   on [**12-31**] with no UOP despite IVF boluses. Urine showed muddy brown casts,
   consistent with ATN.  UA consistent with pre-renal etiology.  No urine
   eos.  The etiology is multifactorial and related to sepsis/cdiff,
   intravascular dryness, and pressors.  UOP minimally responded to IVF
   boluses, low dose dopamine.
   - f/u renal recs
   - will initiate HD today pending neuron status
   - trend lytes and renal function [**Hospital1 **]
   - continue to treat c.diff as above
   - continue to hold spironolactone & lisinopril
   .
   # Septic shock: likely secondary to c.diff infection.  Patient required
   pressor support with dopamine (up to 7) which increased with warming.
   The pressor was switched to Norepi (0.04) on [**2131-12-30**], switched to neo on
   [**12-31**] for tachycardia.  With multi-organ failure, including kidney,
   liver, and brain.
   - continue to wean her down on pressor
   - aggressive NS bolus
   - Holding ACEI and spironolactone and lasix for now
   - continue to treat c.diff as above
   - maintain MAP goal 60
   - cV02 goal >70%
   - follow lactate
   .
   # VF/VT Arrest: No strips, but was shocked by AED twice.  Most likely
   etiologies for VF/VT arrest is renal failure/hyperkalemia, ischemia
   after NSTEMI in [**11-4**], and heart failure with EF 15-20%. 18 hour Artic
   sun protocol commenced on [**2131-12-29**] AM, and completed at [**2131-12-30**] at 12
   noon. TTE performed on [**2131-12-29**] demonstrated an EF of 15-20%, with
   akinesis of the LV inferior wall and basal to mid hypokinesis
   elsewhere, though the inferior wall akinesis was seen on prior ECHO on
   [**11-4**], likely representing stunned myocardium.
   - wean pressors as tolerates
   - Wean sedation as tolerates, RSBI and Breathing trials
   - f/u neuro recs
   - assess neurologic status
   - Resume beta-blockers once BP allows & pressors weaned
   - if pt recovers neurologically, she would be a candidate for ICD
   .
   # Metabolic acidosis: Both anion gap (gap 15) and non-anion gap
   metabolic acidosis (delta-delta 0.27).  Anion gap acidosis is likely
   from lactate acidosis and starvation ketone acidosis.  Non-anion gap
   acidosis is likely from diarrhea and NS she received yesterday. pH
   7.35, from hyperventilation on the vent.
   - continue hyperventilation on vent, keep pCO2 27-30
   - continue bicarb gtt at 75cc/hr
   - continue to monitor ABGs
   - continue aggressive volume resuscitation
   .
   # Coagulopathy: rising PT (18), PTT (89.8) an INR (1.6).  In the
   setting of sepsis, concerning for DIC.  Could also be due to liver
   injury, however LFT is not terribly abnormal.   Also could be secondary
   to starvation and vitK deficiency.
   - f/u fibrinogen
   - hold off on IV vitK
   - continue to trend
   - will need FFP if actively bleeding
   - will give cryoprecipitate if fibrinogen <100
   - heparin sc discontinued, pneumoboots on for DVT ppx
   .
   # Liver dysfunction: LFT rising. AST, alk phos and LDH abnormal.
   Likely due to hepatic congestion, less likely shock liver since LFTs
   are not very high.
   - treat sepsis as above
   - continue to monitor
   - no RUQ US for now given this is most likely secondary to sepsis
   .
   # Leukocytosis with bandemia: secondary to c.diff.  UTI contributes to
   it as well. CXR no evidence of pneumonia.
   - continue to treat c.diff as above
   - f/u all cultures
   - continue to trend WBC and fever curve
   .
   # Lactic Acidosis: improving; related to low cardiac output and
   pressors. Feet are clearly hypoperfused (bilaterally)
   - continue to follow
   - aggressively fluid resuscitate pt given c.diff colitis
   - maintain MAP goal of 60
   .
   # Rhythm: See above. Currently on NSR with LBBB without meeting
   criteria for ACS.
   - Holding beta-blocker for now given hypotension
   - Re-start BB with improved pressures & off pressors
   .
   # Pump: Patient with heart failure and EF of 25-30% after NSTEMI in
   [**Month (only) 1780**], now with EF of 15-20%, likely stunned myocardium.
   - if patient recovers, she will need a ICD
   - if BP improves, will restart BB
   .
   # Coronaries: Pt with slightly elevated troponin secondary to arrrest.
   No ECG changes compatible for ischemia and negative MB.
   - Continue lipitor 80, ASA, plavix
   .
   # Anemia: Normocytic normochromic anemia with high RDW. Ferritin of
   1249, TIBC 226, TRF 174, Iron 30 in [**Month (only) **]/09 suggesting iron deficiency.
   Reticulocyte of 7.6 at that time (4.05 corrected and 2 with double
   correction) suggesting a component of acute disease with good marrow
   production. Reticulocyte count on [**2131-12-29**] low at 1.2; B12 and folate
   wnl. Transfused with one unit of pRBC on [**2131-12-30**] for hct 24 with
   response to 29.  Hct downtrended on [**1-1**] to 25.5, secondary to
   hemodilution from IVF boluses.
   - follow hct [**Hospital1 **]
   - no transfusion
   .
   # Mitral regurgitation: Stable per TTE performed on [**2131-12-29**] compared to
   prior.
   .
   # Asthma: No wheezes or signs of exacerbation.
   - continue albuterol nebs prn
   .
   # Gout: patient has impressive tophaceous gout R>L on the feet.
   - holding allopurinol in ARF
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  insulin ss
   Lines:
   Multi Lumen - [**2131-12-29**] 05:30 AM
   Arterial Line - [**2131-12-29**] 09:50 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  IV famotidine
   VAP: bundle
   Comments:
   Communication:  Comments:
   Code status: Full code, will readdress this afternoon
   Disposition :  CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   CT shows a stroke, neuro indicates that [**Doctor Last Name **] stem reflexes are poor.
   Her prognosis is very poor. Husband has arrived from [**State 1771**]. Will
   discuss prognosis and treatment options.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2132-1-1**] 15:27 ------

2132-01-02 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Radiology reads CT head as an acute R MCA infarct
   - Pupils fixed, nearly non-reactive to light, but pupils equal
   - EEG from [**12-31**] demonstrates findings indicative of diffuse cerebral
   dysfunction "likely secondary to cerebral anoxia."
   - Neuro thinks pt has grave prognosis, communicated this to family this
   AM
   - Family mtg. this PM with CCU team, they understand that patient will
   not recover, spent time with SW, will take the day to process,
   currently at the bedside, emotional & appropriate
   - Received IV bicarb
   - D/C'd Vanc enemas
   - PM KUB stable compared to AM KUB re: colonic dilatation
   - sputum culture prelim: heavy growth staph aureus
   - no meaningful UOP (35cc for the day)
   - PM lytes with slight elevation in Cr from 3.3 to 3.6, otherwise
   stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2131-12-30**] 10:00 AM
   Metronidazole - [**2132-1-2**] 06:29 AM
   Vancomycin - [**2132-1-2**] 06:29 AM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2132-1-1**] 12:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2132-1-2**] 06:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**33**] AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.9
   HR: 83 (74 - 92) bpm
   BP: 86/40(54) {86/37(54) - 149/66(95)} mmHg
   RR: 16 (0 - 20) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 71 kg (admission): 64.6 kg
   Height: 62 Inch
    CVP: 15 (15 - 349)mmHg
   Total In:
                                                                  2,792 mL
                                                                    807 mL
   PO:
   TF:
   IVF:
                                                                  2,702 mL
                                                                    807 mL
   Blood products:
   Total out:
                                                                    775 mL
                                                                     55 mL
   Urine:
                                                                     85 mL
                                                                     55 mL
   NG:
                                                                    290 mL
   Stool:
   Drains:
   Balance:
                                                                  2,017 mL
                                                                    752 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 21 cmH2O
   Compliance: 31.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.36/26/163/19/-8
   Ve: 7.5 L/min
   PaO2 / FiO2: 408
   Physical Examination
   GEN: intubated, sedation off since 2 days ago, pt unresponsive, no spon
   resp
   CARD: rrr, no m/r/g appreciated
   Peripheral Vascular: (Right radial pulse: faint), (Left radial pulse:
   [**Last Name (un) 10850**]), (Right DP pulse: not palpable), (Left DP pulse: Not palpable),
   (Right femoral pulse: weak but palpable), (Left femoral pulse: weak but
   palpable)
   Lungs: Coarse breath sounds bilaterally
   Abd: distended, hypoactive bowel sounds
   Ext: brawny edema UE, brawny with pitting edema LE; [**Name Prefix (Prefixes) **] [**Last Name (Prefixes) **] but with
   toe ischemia/necrosis, bear hugger on
   Neurologic: pupils 2.5mm, equal, minimal-to-no reactivity to light.
   Not responsive to sternal rub or voice.
   Labs / Radiology
   183 K/uL
   8.7 g/dL
   172 mg/dL
   3.9 mg/dL
   19 mEq/L
   4.1 mEq/L
   63 mg/dL
   107 mEq/L
   141 mEq/L
   26.0 %
   33.6 K/uL
        [image002.jpg]
                             [**2131-12-31**]  03:06 AM
                             [**2131-12-31**]  04:58 PM
                             [**2131-12-31**]  05:15 PM
                             [**2131-12-31**]  09:22 PM
                             [**2132-1-1**]  02:50 AM
                             [**2132-1-1**]  02:59 AM
                             [**2132-1-1**]  06:22 AM
                             [**2132-1-1**]  10:06 AM
                             [**2132-1-1**]  03:27 PM
                             [**2132-1-2**]  04:58 AM
   WBC
   32.6
   29.3
   33.6
   Hct
   26.4
   25.5
   26.0
   Plt
   [**Telephone/Fax (3) 10886**]
   Cr
   3.6
   3.3
   3.6
   3.9
   TCO2
   13
   16
   16
   16
   16
   15
   Glucose
   118
   111
   150
   172
   Other labs: PT / PTT / INR:18.0/89.8/1.6, Differential-Neuts:64.0 %,
   Band:27.0 %, Lymph:2.0 %, Mono:7.0 %, Eos:0.0 %, Ca++:6.7 mg/dL,
   Mg++:2.6 mg/dL, PO4:5.3 mg/dL
   Micro:
Sputum cx [**12-31**]
STAPH AUREUS COAG +.    HEAVY GROWTH.
   CT head:  [**1-1**]
   There is interval development of hypodense appearance of the cerebral
   parenchyma on the right side diffusely, in the right frontal, parietal
   and
   temporal lobes predominantly, with sulcal effacement and loss of
   [**Doctor Last Name 1359**]-white
   matter differentiation. Findings can relate to acute infarction or
   hypoxic/anoxic/ischemic injury Evaluation of basal ganglia, brain stem
   and
   posterior fossa structures is limited, as also evidence for herniation.
   No
   acute gross hemorrhage is noted. Study significantly limited due to
   artifacts
   from the electrodes. Consider repeating after removal of electrodes, if
   appropriate and correlate clinically. Evaluation for associated
   infection is
   limited.
   KUB: [**1-1**]
   Overall stable
   Assessment and Plan
   Mrs. [**Known firstname 1012**] [**Known lastname **] [**Last Name (un) **] is a very nice 76 year-old woman with
   history of CAD s/p CABG x 4, recent NSTEMI in [**11-4**], HTN, sCHF (EF
   25-30% prior to this admission) who had VT arrest.
   .
# Brain injury: Per neuro:
patient has irreversible hypoxic-ischemic [**First Name9 (NamePattern2) **]
[**Last Name (un) **] as well as a large brain infarct that was embolic.
  Patient was found down
 in rehab, unclear how long pt was out before she was shocked.  Patient was on a
rctic sun cooling protocol for 18hrs, and has been off sedation since [**12-31**] early
AM.  EEG shows global suppression, but given pt was on versed and in the presenc
e of renal failure, may need to wait until sedation completely wears off before
final neuro status and neurologic prognosis determined.  On the night of [**12-31**], pa
tient was noted to have anisocoria (right pupil 4mm minimally reactive to light,
 left pupil 2mm reactive to light), concerning for herniation.  Repeat CT head w
ith EEG leads on showed large MCA stroke.  Patient has no brainstem reflexes.
   - f/u on neuro recs
   - hyperventilation to reduce ICP, goal pCO2 27-30
   - keep HOB at 30 degree
   - hold off on mannitol given acute renal failure, acidosis, and
   hypotension
   - continue aspirin, plavix, statin
   - per patient's daughters, patient stated that she would not want to
   "live like vegetable"
   - will discuss with family today re withdrawal of care as there is no
   realistic expectation that pt will ever recover from this brain injury
   .
   # C. Diff colitis: Patient had diarrhea at rehab, and levofloxacin on
   admission did not help. It is very possible that when she was cooled,
   the c-diff pooled and was delivered in a large bolus upon rewarming.
   Patient was started on antibiotics for c.diff on [**12-31**], KUB in the
   evening of [**12-31**] shows evidence of early toxic megacolon. Pt meets the
   surgical indication for colectomy but not a surgical candidate given
   her brain injury and stroke.
   - continue PO vanc 500 mg q6, IV flagyl 500 mg q8 Flagyl
   - KUB stable, can hold off on serial KUBs
   - serial q4 abdominal exams
   - follow WBC and fever curves
   .
   # Acute renal failure: Patient with baseline Cr 1.4-1.5, admitted with
   Cr of 3.3 in context of poor PO intake on lisinopril and
   spironolactone, dirty U/A and c.diff infection which likely started
   when she was in rehab. Urine lytes suggestive of pre-renal etiology;
   creatinine improved to 2.4 with hydration. However, creatinine worsened
   on [**12-31**] with no UOP despite IVF boluses. Urine showed muddy brown casts,
   consistent with ATN.  UA consistent with pre-renal etiology.  No urine
   eos.  The etiology is multifactorial and related to sepsis/cdiff,
   intravascular dryness, and pressors.  UOP minimally responded to IVF
   boluses, low dose dopamine.  No HD will be initiated given poor neuro
   status.
   - f/u renal recs
   - trend lytes and renal function [**Hospital1 **]
   - continue to treat c.diff as above
   - continue to hold spironolactone & lisinopril
   .
   # Septic shock: likely secondary to c.diff infection.  Patient required
   pressor support with dopamine (up to 7) which increased with warming.
   The pressor was switched to Norepi (0.04) on [**2131-12-30**], switched to neo on
   [**12-31**] for tachycardia.  With multi-organ failure, including kidney,
   liver, and brain.
   - continue to wean her down on pressor
   - NS bolus prn
   - Holding ACEI and spironolactone and lasix for now
   - continue to treat c.diff as above
   - maintain MAP goal 60
   - cV02 goal >70%
   - follow lactate
   .
   # VF/VT Arrest: No strips from rehab, but was shocked by AED twice.
   Most likely etiologies for VF/VT arrest is renal failure/hyperkalemia,
   ischemia after NSTEMI in [**11-4**], and heart failure with EF 15-20%. 18
   hour Artic sun protocol commenced on [**2131-12-29**] AM, and completed at [**2131-12-30**]
   at 12 noon. TTE performed on [**2131-12-29**] demonstrated an EF of 15-20%, with
   akinesis of the LV inferior wall and basal to mid hypokinesis
   elsewhere, though the inferior wall akinesis was seen on prior ECHO on
   [**11-4**], likely representing stunned myocardium.
   - wean pressors as tolerates
   - will likely withdraw care today
   - no meaningful recovery will occur for ICD placement
   .
   # Metabolic acidosis: Both anion gap (gap 15) and non-anion gap
   metabolic acidosis (delta-delta <1).  Anion gap acidosis is likely from
   lactate acidosis and starvation ketone acidosis.  Non-anion gap
   acidosis is likely from diarrhea and NS she received yesterday. pH
   7.35, from hyperventilation on the vent.
   - continue hyperventilation on vent, keep pCO2 27-30
   - continue bicarb gtt at 75cc/hr
   - will likely withdraw care
   .
   # Coagulopathy: rising PT, PTT an INR.  Fibrinogen normal, less
   concerning for DIC.  Could be due to liver injury, however LFT is not
   terribly abnormal.   Also could be secondary to starvation and vitK
   deficiency.
   - hold off on IV vitK
   - continue to trend
   - will give FFP if actively bleeding
   - heparin sc discontinued, pneumoboots on for DVT ppx
   .
   # Liver dysfunction: LFT rising. AST, alk phos and LDH abnormal.
   Likely due to hepatic congestion, less likely shock liver since LFTs
   are not very high.
   - treat sepsis as above
   - continue to monitor
   - no RUQ US for now given this is most likely secondary to sepsis
   .
   # Leukocytosis with bandemia: secondary to c.diff.  UTI contributes to
   it as well. CXR no evidence of pneumonia.
   - continue to treat c.diff as above
   - f/u all cultures
   - continue to trend WBC and fever curve
   .
   # Lactic Acidosis: improving; related to low cardiac output and
   pressors. Feet are clearly hypoperfused (bilaterally)
   - continue to follow
   - NS boluses prn
   - maintain MAP goal of 60
   .
   # Rhythm: See above. Currently on NSR with LBBB without meeting
   criteria for ACS.
   - Holding beta-blocker for now given hypotension
   .
   # Pump: Patient with heart failure and EF of 25-30% after NSTEMI in
   [**Month (only) 1780**], now with EF of 15-20%, likely stunned myocardium.
   - pt unlikely to make meaningful recovery for ICH placement
   .
   # Coronaries: Pt with slightly elevated troponin secondary to arrrest.
   No ECG changes compatible for ischemia and negative MB.
   - Continue lipitor 80, ASA, plavix
   .
   # Anemia: Normocytic normochromic anemia with high RDW. Ferritin of
   1249, TIBC 226, TRF 174, Iron 30 in [**Month (only) **]/09 suggesting iron deficiency.
   Reticulocyte of 7.6 at that time (4.05 corrected and 2 with double
   correction) suggesting a component of acute disease with good marrow
   production. Reticulocyte count on [**2131-12-29**] low at 1.2; B12 and folate
   wnl. Transfused with one unit of pRBC on [**2131-12-30**] for hct 24 with
   response to 29.  Hct 26 today, secondary to hemodilution from IVF
   boluses.
   - follow hct [**Hospital1 **]
   - no transfusion
   .
   # Mitral regurgitation: Stable per TTE performed on [**2131-12-29**] compared to
   prior.
   .
   # Asthma: No wheezes or signs of exacerbation.  Patient has no
   spontaneous respiration, no albuterol needed.
   .
   # Gout: patient has impressive tophaceous gout R>L on the feet.
   - holding allopurinol in ARF
   ICU Care
   Nutrition:
   NPO
   Glycemic Control:  insulin
   Lines:
   Multi Lumen - [**2131-12-29**] 05:30 AM
   Arterial Line - [**2131-12-29**] 09:50 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer:  IV famotidine
   VAP: bundle
   Comments:
   Communication:  Comments:
   Code status: will likely withdraw care today as pt has no brainstem
   reflex
   Disposition :  CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:
   Medical Decision Making
   She has sustained a large MCA stroke with loss of brainstemreflexes
   from hypoxic injury. She is DNR per the family. Will discuss withdrawal
   of therapy / CMO today.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3876**], MD
   on:[**2132-1-2**] 10:22 ------